US20010014683A1
(i) Methyl 2-methoxy-4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate
This was prepared from 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethanol and 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol and methyl 2-methoxy-4-methylaminobenzoate in 41% yield according to a procedure similar to that described in Example 1 (i).

reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethanol | COCO[C@@H]1CN(CC1)C[C@@H](O)C1=CC=CC=C1 | C14H21NO3
reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol | COCO[C@@H]1CN(CC1)[C@@H](CO)C1=CC=CC=C1 | C14H21NO3
reactant | methyl 2-methoxy-4-methylaminobenzoate | COC1=C(C(=O)OC)C=CC(=C1)NC | C10H13NO3
product | Methyl 2-methoxy-4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate | 41% yield | COC1=C(C(=O)OC)C=CC(=C1)N(C)[C@H](CN1C[C@H](CC1)OCOC)C1=CC=CC=C1 | C24H32N2O5
